US07947835B2
4-{6-[3-(4-tert-Butyl-benzoylamino)-2-methyl-phenyl]-imidazo[1,2-a]pyrazin-8-ylamino}-benzimidic acid ethyl ester hydrochloride
4-tert-Butyl-N-{3-[8-(4-cyano-phenylamino)-imidazo[1,2-a]pyrazin-6-yl]-2-methyl-phenyl}-benzamide is slurried in 200 mL ethanol (200 proof) and the reaction cooled to 0° C. in an ice bath. The reaction is then saturated with hydrogen chloride gas and allowed to gradually warm to rt over 16 hrs with stirring. The solvent is removed in vacuo and the resulting tan solid 4-{6-[3-(4-tert-butyl-benzoylamino)-2-methyl-phenyl]-imidazo[1,2-a]pyrazin-8-ylamino}-benzimidic acid ethyl ester hydrochloride (500 mg) is used without further purification.

reactant | 4-tert-Butyl-N-{3-[8-(4-cyano-phenylamino)-imidazo[1,2-a]pyrazin-6-yl]-2-methyl-phenyl}-benzamide | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=2N=C(C=3N(C2)C=CN3)NC3=CC=C(C=C3)C#N)C)C=C1 | C31H28N6O
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | 4-{6-[3-(4-tert-Butyl-benzoylamino)-2-methyl-phenyl]-imidazo[1,2-a]pyrazin-8-ylamino}-benzimidic acid ethyl ester hydrochloride | Cl.C(C)OC(C1=CC=C(C=C1)NC=1C=2N(C=C(N1)C1=C(C(=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)C)C=CN2)=N | InChI=1S/C33H34N6O2.ClH/c1-6-41-29(34)22-12-16-25(17-13-22)36-30-31-35-18-19-39(31)20-28(37-30)26-8-7-9-27(21(26)2)38-32(40)23-10-14-24(15-11-23)33(3,4)5;/h7-20,34H,6H2,1-5H3,(H,36,37)(H,38,40);1H
